US06903215B2
To a chilled solution (ice-water bath) of 6 g (17.0 mmol) of the above 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentanoic acid ethyl ester in 60 mL of dry THF, 2.4 g (61.5 mmol) of lithium aluminum hydride was added in portions. After the addition, the cold bath was removed and the mixture was stirred at room temperature overnight. The mixture was then warmed to reflux for 3 hour and then cautiously quenched by slow addition to 100 mL of THF containing 2 mL of water. Additional water was then cautiously added for a total of 15 mL and the resulting mixture stirred for 2 hours. The excess water was dried over magnesium sulfate and 300 mL of EtOAc was added. After 1 hour, the mixture was filtered through diatomaceous earth and concentrated in vacuo to afford 4.9 g (92%) of 4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-trifluoromethylpentane-1,2-diol as an oil.

reactant | 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentanoic acid ethyl ester | 17.0 mmol, 6 g | C(C)OC(C(CC(C)(C)C1=C(C=CC(=C1)F)OC)(C(F)(F)F)O)=O | C16H20F4O4
reactant | lithium aluminum hydride | 61.5 mmol, 2.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-trifluoromethylpentane-1,2-diol | 4.9 g, 92% | FC=1C=CC(=C(C1)C(CC(CO)(O)C(F)(F)F)(C)C)OC | C14H18F4O3
